US08114868B2
To the mixture of 4-iodopyridin-2(1H)-one (50 mg, 0.213 mmol) in DMF (3 mL) was added 2-iodoethanol (73 mg, 0.426 mmol), K2CO3 (88 mg, 0.638 mmol) at rt. The mixture was stirred for 2 h at rt. After the reaction was finished, the mixture was washed with water and extracted with EtOAc. The organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated to give the crude product, which was purified by TLC to provide 1-(2-hydroxyethyl)-4-iodopyridin-2(1H)-one (60 mg 100%).

reactant | 4-iodopyridin-2(1H)-one | 0.213 mmol, 50 mg | IC1=CC(NC=C1)=O | C5H4INO
reactant | 2-iodoethanol | 0.426 mmol, 73 mg | ICCO | C2H5IO
reactant | K2CO3 | 0.638 mmol, 88 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(2-hydroxyethyl)-4-iodopyridin-2(1H)-one | 60 mg, 100% | OCCN1C(C=C(C=C1)I)=O | C7H8INO2
